US06265349B1
Preparation of 3-(7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone (Compound No. 4-28)
0.29 g (0.74 mmol) of 3-(2-carboxy-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone was dissolved in 15 ml of quinoline, and 0.05 g (0.75 mmol) of copper powder was added thereto, followed by stirring at 210° C. for 15 minutes. Then, copper was removed by filtration, and the filtrate was poured into water and acidified by an addition of hydrochloric acid, and then extracted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.18 g (yield: 70%) of the desired product. Melting point: 178-179° C. 1H-NMR (300 MHz, CDCl3) δ value: 3.74(3H,s), 6.66(1H,d), 6.81(1H,d), 7.20(1H,d), 7.56(1H,d), 7.72(1H,d)ppm.

reactant | 3-(2-carboxy-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.74 mmol, 0.29 g | C(=O)(O)C=1OC2=C(C1)C(=C(C=C2Cl)F)C=2C(N(C(=CC2)C(F)(F)F)C)=O | C16H8ClF4NO4
solvent | quinoline | 15 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 0.75 mmol, 0.05 g | [Cu] | Cu
product | 3-(7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.18 g, yield: 70% | ClC1=CC(=C(C=2C=COC21)C=2C(N(C(=CC2)C(F)(F)F)C)=O)F | C15H8ClF4NO2
